* C:\Users\Dmitr\Desktop\apps_archive\skeemitehnika-projekt-2025\digital\transistor_nor.asc
V1 A 0 0
V2 B 0 PULSE(0 5 0 0 0 0.2 1)
Q1 OUT N001 0 0 2N3904
Q2 OUT N003 0 0 2N3904
R1 N001 A 1k
R2 N003 N002 1k
V3 Vcc 0 5
R3 Vcc OUT 1k
R4 P001 B 1k
Q3 N002 P001 Vcc 0 PNP
R6 N002 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Dmitr\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 5
.backanno
.end
