* C:\Users\Dmitr\Desktop\apps_archive\skeemitehnika-projekt-2025\digital\transistor_nor.asc
V1 A 0 5
V2 B 0 PULSE(1 0 0 .5m .5m 50m 100m)
Q1 OUT N001 0 0 2N3904
Q2 OUT N003 0 0 2N3904
R1 N001 A 1k
R2 N003 N002 1k
V3 Vcc 0 5
R3 Vcc OUT 1k
Q3 N002 N005 0 0 2N3904
S1 N004 Vcc B 0 S1
R4 N005 N004 4.7k
R5 Vcc N002 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Dmitr\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1 0 startup
.model S1 SW()
.backanno
.end
